US05256760
In a 10 liter three-necked Morton flask equipped with nitrogen inlet and outlet, thermometer, condenser and mechanical stirrer, were placed 179.6 grams (4.4 moles) of sodium hydroxide, 289.8 grams (2.1 m) of p-hydroxybenzoic acid, and 3 liters of distilled water. Isophthaloyl dichloride (203 grams, 1 m) was dissolved in 3 liters of methylene chloride. The acid chloride solution was added into the reaction flask with fast agitation. The resulting mixture was stirred at room temperature for one hour, and the solid disodium salt of the product was filtered, washed with water, and then acidified with a 10% solution of hydrochloric acid. The crude product was filtered, washed three times with distilled water, and twice with hot methanol, and then dried at 100° C. to obtain 300 grams of di(p-carboxyphenyl)isophthalate in 74% yield, with a melting point of 290°-300° C.

reactant | sodium hydroxide | 4.4 moles, 179.6 grams | [OH-].[Na+]
reactant | p-hydroxybenzoic acid | 289.8 grams | OC1=CC=C(C(=O)O)C=C1 | C7H6O3
reactant | water | 3 liters | O | H2O
reactant | Isophthaloyl dichloride | 203 grams | C(C1=CC(C(=O)Cl)=CC=C1)(=O)Cl | C8H4Cl2O2
solvent | methylene chloride | 3 liters | C(Cl)Cl | CH2Cl2
product | di(p-carboxyphenyl)isophthalate | 300 grams, 74% yield | C(=O)(O)C1=CC=C(C=C1)OC(C1=CC(C(=O)OC2=CC=C(C=C2)C(=O)O)=CC=C1)=O | C22H14O8
